US05068427
Liquid ammonia is reacted with 1,2,4-triazol-3- sulfonylchloride to give 1,2,4-triazol-3-sulfonamide in U.S. Pat. No. 2,554,816.

reactant | ammonia | N | H3N
reactant | 1,2,4-triazol-3- sulfonylchloride | N1N=C(N=C1)S(=O)(=O)Cl | C2H2ClN3O2S
product | 1,2,4-triazol-3-sulfonamide | N1N=C(N=C1)S(=O)(=O)N | C2H4N4O2S
